US06521627B1
(4) Synthesis of 4-chloro-6-(1-hydroxyethyl)-5-iodopyrimidine (Compound 2-(6))
In ethanol (20 ml) was dissolved 6-(1-acetoxyethyl)-4-chloro-5-iodopyrimidine (1.0 g), and 1N sodium hydroxide aqueous solution (20 ml) was added dropwise to the solution while stirring. After the dropping addition, the mixture was stirred for additional one hour at room temperature to complete the reaction. Then, the solvent was distilled off under reduced pressure, and the desired compound was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure.

reactant | 6-(1-acetoxyethyl)-4-chloro-5-iodopyrimidine | 1.0 g | C(C)(=O)OC(C)C1=C(C(=NC=N1)Cl)I | C8H8ClIN2O2
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-chloro-6-(1-hydroxyethyl)-5-iodopyrimidine | ClC1=NC=NC(=C1I)C(C)O | C6H6ClIN2O
